datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:61]1=[N:10][CH:71]=[CH:72][NH:62]1>>CC[O:34][C:32]([C:21]([CH:20]([N+:10]1=[C:61](C)[NH:62][CH:72]=[CH:71]1)[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C1COC2(CC[C:20](=[O:21])CC2)O1.CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:62](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:75](C2=CC=CC=C2)=[N:73]1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[C:20]2([O-:21])CCC3(CC2)OCCO3)[N:62](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:75](C2=CC=CC=C2)=[N:73]1 10,11=10,20;12=11,12;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C.[N-:10]1[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([N:10]2[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]2)[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"C1=C[C:14](=[N+:15]([O-:16])[O-:67])[CH:13]=[CH:12][C:11]1=[O:10].C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([O:10][C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:67])C=C2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"CC1=CC=C([S:61]([NH-:10])(=[O:62])=[O:63])C=C1.[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>CC1=CC=C([S:61]([NH:10][CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]2)(=[O:62])=[O:63])C=C1 10=20;20,21=21,22;22,23=23"
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11](CC)[H:10].C[C:20]1=[CH:21][C:22](=[O:23])CC1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11]CC.C[C:20]1([H:10])CC[C:22]([O-:23])=[CH:21]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][C:74](Cl)=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[N+:12]1=[C:11]([C:72]2=[CH:73][C:74](Cl)=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12"
"CC(C)[Si](C(C)C)(C(C)C)[N:12]1[CH:11]=[CH:10][CH:61]=[CH:62]1.[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>CC(C)[Si](C(C)C)(C(C)C)[N+:12]1=[CH:11][CH:10]([CH:20]2N3N=N[N:35]=[C:34]3[CH:33]=[CH:32][C:21]2=[N+:22]([O-])[O-:23])[CH:61]=[CH:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34].[CH-:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:74](=[O:75])[O-:95])[CH:83]=[CH:82]1>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].FC(F)(F)[S:20][CH:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:74](=[O:75])[O-:95])[CH:83]=[CH:82]1 10=20;20,21=21,22;22,23=23"
"CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:83]=[CH:82]1)[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:72][C:11]([CH:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]1)[C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1.C[Si:11](C)(CC1=CC=CC(Cl)=C1)[H:10]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1.C[Si+:11](C)CC1=CC=CC(Cl)=C1 10,11=10,20"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[S+:61](C)([CH2-:10])=[O:62]>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][S+:61](C)(C)=[O:62])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C[Si:11](C)([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[Si+:11](C)[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC(C)[OH:10].C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC(C)[OH+:10][CH:20]([N:21](C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21"
